US06339093B1
4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-2-ylamine
The title compound, MS: m/e=276.3 (M+H+), was prepared from 4-chloro-quinolin-2-ylamine and 1,2,3,4-tetrahydroisoquinoline.

reactant | 4-chloro-quinolin-2-ylamine | ClC1=CC(=NC2=CC=CC=C12)N | C9H7ClN2
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-2-ylamine | C1N(CCC2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)N | C18H17N3
